2123-12-12 09:44:00 Physician Attending Progress Note
Chief Complaint: DTs
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Diazepam and Clonidine required for escalating agitation and HTN
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydralazine - [**2123-12-11**] 07:00 PM
   Diazepam (Valium) - [**2123-12-11**] 09:03 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-12-12**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.4
C (97.5
   HR: 107 (86 - 130) bpm
   BP: 173/104(119) {130/80(90) - 201/114(132)} mmHg
   RR: 32 (27 - 36) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
                  Total In:
                                                                    520 mL
                                                                    680 mL
   PO:
                                                                    240 mL
                                                                    680 mL
   TF:
   IVF:
                                                                    280 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    100 mL
   Urine:
                                                                    900 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -380 mL
                                                                    580 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   Gen lying in bed, soekaing but at times [**Last Name (un) **] sensical
   HEENTop dry
   CVRR
   Chest CTA b
   Abd obese soft Nt + BS
   Ext: trace edema
   CXR: low lung volumes no infiltrates
   Labs / Radiology
        [image002.jpg] None this AM
   Assessment and Plan
 HYPERTENSION, BENIGN
 .H/O ALCOHOL ABUSE
   45 yo male polysubstance abuse, now with evidence for acute withdrawal
   (EtOH and opiate)
   AGITATION -- hypertension, tachycardia, agitation, diaphoresis, +/-
   hallucinations all consistent with EtOH but the nausea vomiting and abd
   pain consistent with acute heroin withdrawl.
   -          For ETOH
 will keep on CIWA and use Valium. Monitor for
   seizures thiamine, folate and MVI administration.
   -          For heroin withdrawl
 continue Methadone taper
   -          Consider Psychiatry or substance abuse consultation
   Hypoxemia -- episodic desaturations while sleeping (in association with
   loud snoring) in obese patient strongly suggests OSA.  Will require
   formal evaluation once acute illness resolved.
   Low grade temps could be consistent with withdrawl. Cx if spikes. No
   empiric antibiotocs
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: po diet as able
   Glycemic Control:  prn
   Lines: pulled out IVs
   Prophylaxis:
   DVT: sc hep (refused)
   Stress ulcer: PPI
   Communication:  attempts with pt
   [**Name (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill